US06897231B2
[3-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL-N-CYCLOPENTYLCARBOXAMIDE
The title compound was prepared as described in Example 381, using methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate (0.402 g, 0.62 mmol) and lithium hydroxide (0.045 g, 1.88 mmol) in tetrahydrofuran (3 mL) and water (2 mL); 1-hydroxybenzotriazole (0.253 g, 1.87 mmol), cyclopentylamine (0.184 mL, 1.87 mmol), 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride (0.360 g, 1.88 mmol), and additional tetrahydrofuran (2 mL); 4 N hydrochloride solution in dioxane (10 mL). The final crude product was purified by preparative HPLC (10-90% acetonitrile to H2O, 20 min.) (0.012 g, 5% yield over 3 steps): 1H NMR (CD3OD) δ 8.80 (s, 1H), 8.44 (s, 1H), 8.20 (d, 1H), 8.13 (d, 1H), 7.89 (dd, 1H), 7.70 (d, 1H), 7.66 (t, 1H), 3.60 (m, 1H), 2.07 (m, 2H), 1.82 (m, 2H), 1.68 (m, 4H); ES-MS (m/z) 373 [M+1]+.

reactant | methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate | 0.62 mmol, 0.402 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C41H35N5O3
reactant | lithium hydroxide | 1.88 mmol, 0.045 g | [OH-].[Li+]
reactant | 1-hydroxybenzotriazole | 1.87 mmol, 0.253 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | cyclopentylamine | 1.87 mmol, 0.184 mL | C1(CCCC1)N | C5H11N
reactant | 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride | 1.88 mmol, 0.360 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL-N-CYCLOPENTYLCARBOXAMIDE | 5% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NC1CCCC1 | C21H20N6O
